US06057369
A mixture of methyl 2-[(3,4-dimethoxyphenyl)thio]-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylate (0.5 g, 1.2 mmol) and 10% sodium hydroxide (5 mL) in ethanol (10 mL) is heated under reflux for 4 hours. The mixture is cooled and is poured into aqueous HCl. The mixture is extracted with ether. The organic layer is washed with water and is dried over MgSO4. The solvent is removed in vacuo to provide 2-[(3,4-dimethoxyphenyl)thio]-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylic acid (0.4 g, 85%): m.p. 146-8° C. Anal. (C23H26O4S) C,H,N: 1H-NMR (300 MHz, CDCl3) δ (TMS) 1.10-1.70 (m, 5H), 1.83-2.02 (m, 1H), 2.32-2.41 (t, 2H), 2.60-2.72 (m, 3H), 3.84 (s, 3H), 3.90 (s, 3H), 6.69-6.75 (d, 1H), 6.94-7.00 (m, 2H), 7.00-7.10 (d, 2H), 7.18-7.32 (m, 3H); MS (EI) m/e 398 (M+).

reactant | methyl 2-[(3,4-dimethoxyphenyl)thio]-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylate | 1.2 mmol, 0.5 g | COC=1C=C(C=CC1OC)SC1=C(CCC1=CCCC1=CC=CC=C1)C(=O)OC | C24H26O4S
reactant | sodium hydroxide | 5 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-[(3,4-dimethoxyphenyl)thio]-3-(3-phenylpropyl-1-yl)-1-cyclopentenecarboxylic acid | 0.4 g, 85% | COC=1C=C(C=CC1OC)SC1=C(CCC1=CCCC1=CC=CC=C1)C(=O)O | C23H24O4S
